US04772600
2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-propanamide
A suspension of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid (5.0 g, 0.0166 mole), 1,1'-carbonyldiimidazole (3.21 g, 0.0198 mole) and dry tetrahydrofuran (100 ml) was stirred at room temperature for 2 hours with nitrogen bubbling through it. The reaction mixture was then heated at 55° C. for 2 hours under nitrogen and cooled to room temperature. A solution of N,N-dimethylethylenediamine (4.41 g, 0.050 mole) in tetrahydrofuran (5.5 ml) was added and the reaction mixture was stirred at room temperature under nitrogen over the weekend. The reaction mixture was evaporated to a white solid and triturated with water (100 ml). The solid was collected by filtration, rinsed once with a 5% potassium hydroxide solution, and washed twice more with water to give 4.9 g of a white solid (79%). A second crop of white solid was obtained from the mother liquor of the above solid. The second crop was dried under high vacuum at 70° C. to give a white solid, mp 141.5°-143° C.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-propanoic acid | 0.0166 mole, 5.0 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)O | C15H12ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.0198 mole, 3.21 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylethylenediamine | 0.050 mole, 4.41 g | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Chlorophenyl)-N-[2-(dimethylamino)ethyl]-3H-imidazo[4,5-b]pyridine-3-propanamide | 4.9 g, 79% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CCC(=O)NCCN(C)C | C19H22ClN5O
